US07700609B2
2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester
2-Methylsulfanyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester (6.50 g, 19.55 mmol) was suspended/dissolved in DCM (150 mL) and cooled in an ice-bath. 3-chloroperbenzoic acid (22.49 g, 97.76 mmol, 75% pure) was added in one portion and the resultant suspension was stirred at 0° C. for 5 minutes and at room temperature for a further 55 minutes. This mixture was then carefully added to a 1:1:1 mixture of saturated Na2CO3, saturated Na2S2O3 and brine (˜500 mL). The organic layer was separated and the aqueous layer was further extracted with DCM (3×200 mL). The combined organics were washed with brine (1×100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The yellow solid obtained was redissolved in acetone, silica (˜80 mL) was added and the suspension was concentrated under reduced pressure. The solid obtained was subjected to column chromatography (gradient elution, 5-10% EtOAc in DCM, ˜600 mL silica) to give a yellow solid (6.25 g, 88% yield). MS (ES+) 365. δH (CDCl3) 1.7 (9H, s), 3.5-3.6 (3H, s), 8.0 (1H, d), 8,2 (1H, d), 8,9 (1H, s), 9.6 (1H, s)

reactant | 2-Methylsulfanyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 19.55 mmol, 6.50 g | C(C)(C)(C)OC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)SC)S1 | C16H16N2O2S2
reactant | 3-chloroperbenzoic acid | 97.76 mmol, 22.49 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | brine | ˜500 mL | [Cl-].[Na+].O
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methanesulfonyl-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 6.25 g, 88% yield | C(C)(C)(C)OC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)S(=O)(=O)C)S1 | C16H16N2O4S2
